US05155260
2,2-Dimethyl-5-(2,5-dimethylphenoxy)-pentanoic acid
To a solution of 2.4 g (0.005 mole) of crude 1,3-bis(5-chloro-2,2-dimethyl-pentanoyloxy)-propane [prepared according to step b) of Example 27, purity: 77%] in 30 ml of dimethyl sulfoxide 1.64 g (0.01 mole) of 2,5-dimethylphenyl acetate, 1.5 g (0.01 mole) of sodium iodide and 3.36 g (0.03 mole) of potassium tert-butoxide are added in the above order. The mixture is stirred for 10 minutes whereafter additional 3.36 g (0.03 mole) of potassium tert-butoxide and 0.3 ml of water are added and stirring is continued for 1 hour. The product is isolated and purified as described in Example 45. In this manner the pure desired product is obtained in a yield of 41.8%.

reactant | 1,3-bis(5-chloro-2,2-dimethyl-pentanoyloxy)-propane | 0.005 mole, 2.4 g | ClCCCC(C(=O)OCCCOC(C(CCCCl)(C)C)=O)(C)C | C17H30Cl2O4
reactant | dimethyl sulfoxide | 0.01 mole, 30 ml, 1.64 g | CS(=O)C | C2H6OS
reactant | 2,5-dimethylphenyl acetate | C(C)(=O)OC1=C(C=CC(=C1)C)C | C10H12O2
reactant | sodium iodide | 0.01 mole, 1.5 g | [I-].[Na+]
reactant | potassium tert-butoxide | 0.03 mole, 3.36 g | CC(C)([O-])C.[K+]
reactant | potassium tert-butoxide | 0.03 mole, 3.36 g | CC(C)([O-])C.[K+]
solvent | water | 0.3 ml | O | H2O
product | 2,2-Dimethyl-5-(2,5-dimethylphenoxy)-pentanoic acid | yield of 41.8% | CC(C(=O)O)(CCCOC1=C(C=CC(=C1)C)C)C | C15H22O3
